US04000295
4-tert-BUTYLAMINO-5,7-DINITRO-2-DIFLUOROMETHYLBENZIMIDAZOLE
4-Chloro-5,7-dinitro-2-difluoromethylbenzimidazole (1.9 grams), triethylamine (0.7 gram), and tert-butylamine (0.5 gram) were mixed in ethanol and refluxed overnight. The mixture was then poured into water, acidified, and filtered to separate the expected 4-tert-butylamino-5,7-dinitro-2-difluoromethylbenzimidazole product, m.p., 189°-196° C. After recrystallization from ethanol, it melted at 199°-201° C. The identity of the product was confirmed by NMR analysis.

reactant | 4-Chloro-5,7-dinitro-2-difluoromethylbenzimidazole | 1.9 grams | ClC1=C(C=C(C=2N=C(NC21)C(F)F)[N+](=O)[O-])[N+](=O)[O-] | C8H3ClF2N4O4
reactant | triethylamine | 0.7 gram | C(C)N(CC)CC | C6H15N
reactant | tert-butylamine | 0.5 gram | C(C)(C)(C)N | C4H11N
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 4-tert-BUTYLAMINO-5,7-DINITRO-2-DIFLUOROMETHYLBENZIMIDAZOLE | C(C)(C)(C)NC1=C(C=C(C=2N=C(NC21)C(F)F)[N+](=O)[O-])[N+](=O)[O-] | C12H13F2N5O4
